US07612105B2
4.0 g (19.7 mmol) of 2-fluoro-4-bromobenzaldehyde, 2.0 g (32.3 mmol) of ethylene glycol, 0.2 g (1.1 mmol) of n-toluenesulfonic acid and 100 ml of toluene were put into a round-bottomed flask and azeotropically dehydrated for 4 hours. After the reaction, the organic layer was washed with aqueous sodium bicarbonate and water and dried over anhydrous magnesium sulfate. The toluene was distilled off under reduced pressure to obtain 4.7 g of 2-(2-fluoro-4-bromophenyl)dioxolan (yield 97%). The dioxolan was dissolved in 50 ml of ether, and 15.0 ml of a n-butyllithium solution in hexane (1.56 mol/l) was added dropwise in a nitrogen stream at −60° C. with stirring. After another 2 hours of stirring at −60° C., 3.0 g (28.9 mmol) of trimethyl borate in 10 ml of diethyl ether was added dropwise, and then reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was cooled back to 0° C., stirred together with 5 ml of diluted hydrochloric acid for 1 hour and poured into 100 ml of water for partitioning. The organic layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 2.4 g of 4-(dioxobororan-2-yl)-2-fluorobenzaldehyde (yield 69%). The benzaldehyde, 3.5 g (14.2 mmol) of 2-bromo5-trifluoromethylpyridine, 3.2 g (30.0 mmol) of sodium carbonate and 1.5 g (1.4 mmol) of tetrakis(triphenylphosphine) palladium were added to a solvent mixture of 100 ml of toluene, 40 ml of ethanol and 40 ml of water and stirred with heating and reflux for 2 hours. The reaction mixture was poured into ice-cold water and extracted with toluene. The toluene layer was washed with water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 2.3 g of 4-(5-trifluoromethylpyridin-2-yl)-2-fluorobenzaldehyde (yield 81%). It was dissolved in 100 ml of ethanol and stirred together with 1.0 g (14.5 mmol) of hydroxylamine hydrochloride and 1.0 g (10 mmol) of triethylamine at room temperature for 12 hours. The ethanol was distilled off under reduced pressure, and the residue was separated with 50 ml of water and 50 ml of ethyl acetate. The organic layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in pyridine, mixed with 2.1 g (10 mmol) of trifluoroacetic anhydride and allowed to stand overnight. The pyridine was distilled off under reduced pressure, and the residue was separated with 50 ml of aqueous sodium bicarbonate and 50 ml of ethyl acetate. The organic layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 1.8 g of 2-fluoro-4-(5-trifluoromethylpyridin-2-yl)benzonitrile (yield 81%), which was used in Example 8 (4) as the starting material.

reactant | 2-fluoro-4-bromobenzaldehyde | 19.7 mmol, 4.0 g | FC1=C(C=O)C=CC(=C1)Br | C7H4BrFO
reactant | ethylene glycol | 32.3 mmol, 2.0 g | C(CO)O | C2H6O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-fluoro-4-bromophenyl)dioxolan | 4.7 g, yield 97% | FC1=C(C=CC(=C1)Br)C1OCCO1 | C9H8BrFO2
